US08809525B2
(3,5-Dichlorophenyl)(oxo)acetic acid (28.0 g 129.0 mmol) was dissolved in ethanol (280 mL) and treated successively with a catalytic quantity of sulfuric acid and methyl hydrazinecarbimidothioate (20.5 g, 193.5 mmol). The resulting mixture was stirred for 1 hr at 78° C. After completion of the reaction (TLC), the mixture was concentrated in vacuo, poured into water (150 mL), and extracted with DCM (3×250 ml). The combined organic extracts were then dried over Na2SO4, concentrated in vacuo, and purified by gradient flash chromatography, affording 6-(3,5-dichlorophenyl)-3-(methylthio)-1,2,4-triazin-5-ol (19 g, 46%).

reactant | (3,5-Dichlorophenyl)(oxo)acetic acid | 129.0 mmol, 28.0 g | ClC=1C=C(C=C(C1)Cl)C(C(=O)O)=O | C8H4Cl2O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methyl hydrazinecarbimidothioate | 193.5 mmol, 20.5 g | N(N)C(=N)SC | C2H7N3S
solvent | ethanol | 280 mL | C(C)O | C2H6O
product | 6-(3,5-dichlorophenyl)-3-(methylthio)-1,2,4-triazin-5-ol | 19 g, 46% | ClC=1C=C(C=C(C1)Cl)C1=C(N=C(N=N1)SC)O | C10H7Cl2N3OS
